US07405300B2
A mixture of indole (5.64 g, 48.3 mmol), 3-bromothiophene (4.84 mL, 51.6 mmol), potassium carbonate (7.16 g, 51.6 mmol), cuprous bromide (298 mg, 2.1 mmol) and N-methylpyrrolidinone (57 mL) is stirred at 180° C. under nitrogen atmosphere for 48 hr. After cooling to room temperature, the reaction mixture is poured into water (300 mL) and then extracted with ethyl acetate. The extract is washed with water, with brine, dried, filtered and concentrated to give a brown oil that is purified by chromatography eluting with heptane-10% dichloromethane. Product containing fraction are combined and concentrated to afford 1-(thien-3-yl)-1H-indole (6.20 g, 64% yield) as a colorless oil.

reactant | indole | 48.3 mmol, 5.64 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-bromothiophene | 51.6 mmol, 4.84 mL | BrC1=CSC=C1 | C4H3BrS
reactant | potassium carbonate | 51.6 mmol, 7.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidinone | 57 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 300 mL | O | H2O
product | 1-(thien-3-yl)-1H-indole | 6.20 g, 64% yield | S1C=C(C=C1)N1C=CC2=CC=CC=C12 | C12H9NS
